US05438064
N-[1-(2-Phenylethyl)-4-piperidinyl]-8-methoxy-4-[[4-[[[1-(phenylmethyl)- 4piperidinyl]amino]carbonyl]phenyl]amino]-3-quinolinecarboxamide was prepared by coupling 8-methoxy-4-[[4-[[[1-(phenylmethyl)-4-piperidinyl]amino]carbonyl]phenyl]amino]-3-quinolinecarboxylic acid and 1-phenethyl-4-aminopiperidine as described for Example 17, Step 5. 1-phenethyl-4-aminopiperidine can be prepared from 1-phenethyl-4-piperidone as described in U.S. Pat. No. 3,875,165: mp 216°-220 ° C.; 1H NMR (Me2SO-d6, 400 MHz) δ 9.51 (s, 1 H), 8.79 (s, 1 H), 8.40 (d, 5=7.7 Hz, 1 H), 8.00 (d, J=7.7 Hz, 1 H), 7.71 (d, J=8.7 Hz, 2 H), 7.57 (d, J=8.5 Hz, 1 H), 7.41 (m, 1 H), 7.10- 7.35 (m, 11 H), 6.88 (d, J=8.7 Hz, 2 H), 3.93 (s, 3 H), 3.7-3.8 (m, 1 H), 3.4-3.6 (m, 3 H), 2.6-2.9 (m, 6 H), 2.4-2.5 (m, 2 H), 1.85-2.10 (m, 4 H, 1.7-1.8 (m, 2 H), 1.5-1.7 (m, 4 H), 1.3-1.5 (m, 2 H).

reactant | 8-methoxy-4-[[4-[[[1-(phenylmethyl)-4-piperidinyl]amino]carbonyl]phenyl]amino]-3-quinolinecarboxylic acid | COC=1C=CC=C2C(=C(C=NC12)C(=O)O)NC1=CC=C(C=C1)C(=O)NC1CCN(CC1)CC1=CC=CC=C1 | C30H30N4O4
reactant | 1-phenethyl-4-aminopiperidine | C(CC1=CC=CC=C1)N1CCC(CC1)N | C13H20N2
reactant | 1-phenethyl-4-piperidone | C(CC1=CC=CC=C1)N1CCC(CC1)=O | C13H17NO
product | N-[1-(2-Phenylethyl)-4-piperidinyl]-8-methoxy-4-[[4-[[[1-(phenylmethyl)- 4piperidinyl]amino]carbonyl]phenyl]amino]-3-quinolinecarboxamide | C1(=CC=CC=C1)CCN1CCC(CC1)NC(=O)C=1C=NC2=C(C=CC=C2C1NC1=CC=C(C=C1)C(=O)NC1CCN(CC1)CC1=CC=CC=C1)OC | C43H48N6O3
